US06235731B1
3) Synthesis of N-methyl-N-[1-(3-phenylpropan-1-yl)piperidin-4-ylmethyl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide
To a solution of 464.3 mg (1.16 mM) of N-methyl-N-(piperidin-4-ylmethyl)-5-thia-1,8b-diazaacenaphthylene-4-carboxamide dihydrochloride and 0.8 ml (5.74 mM) of triethylamine in ethanol was added 0.21 ml (1.38 mM) of l-bromo-3-phenylpropane at room temperature, and the mixture was refluxed under nitrogen for 15 hours. The solvent was then distilled off under reduced pressure and the residue was diluted with water and extracted with methylene chloride. The organic layer was washed with saturated aqueous solution of sodium chloride, dried over MgSO4, and purified by column chromatography (methanol/ethyl acetate 20-50%) to provide the title compound.

reactant | N-methyl-N-(piperidin-4-ylmethyl)-5-thia-1,8b-diazaacenaphthylene-4-carboxamide dihydrochloride | 1.16 mM, 464.3 mg | Cl.Cl.CN(C(=O)C1=CC2=CN=C3C=CC=C(S1)N32)CC3CCNCC3
reactant | triethylamine | 5.74 mM, 0.8 ml | C(C)N(CC)CC | C6H15N
reactant | l-bromo-3-phenylpropane | 1.38 mM, 0.21 ml | BrCCCC1=CC=CC=C1 | C9H11Br
solvent | ethanol | C(C)O | C2H6O
product | N-methyl-N-[1-(3-phenylpropan-1-yl)piperidin-4-ylmethyl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide | CN(C(=O)C1=CC2=CN=C3C=CC=C(S1)N32)CC3CCN(CC3)CCCC3=CC=CC=C3 | C26H30N4OS
